### PR TITLE
[Merged by Bors] - feat: add IsLocalizedModule.isBaseChange

### PR DESCRIPTION
**Pull request by 4e554c4c**
Port of leanprover-community/mathlib#17973

Follow up work:
* add `IsPushout` when `M` is a `CommRing`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by 4e554c4c** [comment]
> This theorem has slightly strange hypotheses. `is_localized_module S f` should already give `M'` the structure of a module over `localization S`, although perhaps this is hard to state without creating typeclass problems? I guess if you have a use for this lemma (rather than the lemma where you create the `module (localization S) M'` and `is_scalar_tower R (localization S) M'` from the other hypotheses) then I guess we should have it.

_Originally posted by @kbuzzard in https://github.com/leanprover-community/mathlib/pull/17973#pullrequestreview-1520243319_

---
Indeed. When I was first PRing this (it was awhile ago) I did write some form of `instance [IsLocalizedModule S f] : SMul (Localization S) M'`, but this was quite troublesome due to typeclass inference and functions. Instead, if necessary the module structure can always be created manually using [`LocalizedModule.lift`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Module/LocalizedModule.html#LocalizedModule.lift).

File: Mathlib/Algebra/Module/LocalizedModule.lean [hunk 1]
```diff
@@ -1082,6 +1085,83 @@ theorem mkOfAlgebra {R S S' : Type _} [CommRing R] [CommRing S] [CommRing S'] [A
 
 end Algebra
 
+variable [Module (Localization S) M'] [IsScalarTower R (Localization S) M']
+
+/--
+- If `(f : M →ₗ[R] M')` is a localization of modules, then the map
+- `(localization S) × M → N, (s, m) ↦ s • f m` is a tensor product.
```
Comment (4e554c4c) [inline Mathlib/Algebra/Module/LocalizedModule.lean:1092]: > What does it mean for a bilinear map to be a tensor product? Did you mean to say this? And what is `N`?

_Originally posted by @kbuzzard in https://github.com/leanprover-community/mathlib/pull/17973#discussion_r1256596031_

--
oops, `N` here should be `M'`
By "is a tensor product", I mean that this map (along with `M'`) is universal.
Both the binary map and object are necessary to define the tensor product, so I don't have an issue calling either "the tensor product". This also goes well with how our typeclasses are defined. (`IsBaseChange` is defined as `IsTensorProduct` for the map given in this docstring).

File: Mathlib/Algebra/Module/LocalizedModule.lean [hunk 2]
```diff
@@ -1082,6 +1085,82 @@ theorem mkOfAlgebra {R S S' : Type _} [CommRing R] [CommRing S] [CommRing S'] [A
...
+              (rw [← smul_eq_mul R, ← Localization.smul_mk])
+          conv =>
+            pattern (r • _) • _
+            rw [smul_assoc]
+          rw [ℓ.map_smul', RingHom.id_apply]
+          conv =>
+            pattern (↑s • _) • _
+            rw [smul_comm]
+          conv =>
+            pattern (↑s • _) • _
```
Comment (kmill) [inline Mathlib/Algebra/Module/LocalizedModule.lean:1139]: Just mentioning to whoever is reviewing that I created #5786 so that this can be written instead as
```suggestion
          conv in (↑s • _) • _ =>
```

The way `pattern` handles `occs` is a little weird in the context of `in` clauses, so I'll also mention that here's a way you could write the one above that uses it:
```lean
          conv in (occs := 1 2) Localization.mk _ s => all_goals
              rw [← smul_eq_mul R, ← Localization.smul_mk]
```

Comment (4e554c4c) [reply Mathlib/Algebra/Module/LocalizedModule.lean]: thanks! done.

File: Mathlib/Algebra/Module/LocalizedModule.lean [hunk 3]
```diff
@@ -1082,6 +1085,77 @@ theorem mkOfAlgebra {R S S' : Type _} [CommRing R] [CommRing S] [CommRing S'] [A
 
 end Algebra
 
+variable [Module (Localization S) M'] [IsScalarTower R (Localization S) M']
```
Comment (ocfnash) [inline Mathlib/Algebra/Module/LocalizedModule.lean:1088]: I'm not an expert on this corner of the library but I believe we prefer to prove theorems about the universal property of localizations using `Submonoid.LocalizationMap` rather than the particular model provided by `Localization`.

With that in mind, I believe a better setup would be as follows:
```lean
variable {A : Type _} [CommRing A] [Algebra R A] [Module A M'] [IsScalarTower R A M']

theorem isBaseChange (g : Submonoid.LocalizationMap S A) : IsBaseChange A f := sorry -- Your proof here
```
and this recovers your original statement as:
```lean
-- Just for illustration, this wouldn't actually go in the library
example [Module (Localization S) M'] [IsScalarTower R (Localization S) M'] :
    IsBaseChange (Localization S) f :=
  isBaseChange S f (Localization.monoidOf S)
```
I'll raise this on Zulip to see if I can attract some expert opinions.

File: Mathlib/LinearAlgebra/TensorProduct.lean [hunk 4]
```diff
@@ -424,6 +424,18 @@ theorem map₂_mk_top_top_eq_top : Submodule.map₂ (mk R M N) ⊤ ⊤ = ⊤ :=
   exact Submodule.span_mono fun _ ⟨m, n, h⟩ => ⟨m, n, trivial, trivial, h⟩
 #align tensor_product.map₂_mk_top_top_eq_top TensorProduct.map₂_mk_top_top_eq_top
 
+theorem pure_if_absorbing_add (x : TensorProduct R M N)
```
[the remark this answers is not in the document]
Comment (ocfnash) [reply Mathlib/LinearAlgebra/TensorProduct.lean:427]: It's also hard to think of a circumstance when we would want to use this lemma (I note that you don't use it here). I'm not against adding it but it would be helpful if you could motivate why you want it.

**Review by ocfnash — COMMENTED** [review]
Thanks, a few small suggestions and a question I'll repeat on Zulip.

File: Mathlib/Algebra/Module/LocalizedModule.lean (hunk 3 above)
Comment (Vierkantor) [reply Mathlib/Algebra/Module/LocalizedModule.lean:1088]: I haven't used `LocalizedModule` but certainly my experience in ring/field theory localizations would agree with Oliver's suggestion.

Comment (101damnations) [reply Mathlib/Algebra/Module/LocalizedModule.lean:1088]: Me too, though I also haven't used `LocalizedModule`, and I think `(g : Submonoid.LocalizationMap S A)` should be `[IsLocalization S A]` (and then `(Localization.monoidOf S)` can be removed).

Comment (ocfnash) [reply Mathlib/Algebra/Module/LocalizedModule.lean:1088]: Thanks @101damnations this makes sense, we have a special typeclass `IsLocalization` expressing the fact that an `algebraMap` satisfies the hypothesis required to build a `Submonoid.LocalizationMap`. So the correct statement should be:
```lean
theorem isBaseChange {A : Type _} [CommRing A] [Algebra R A] [Module A M'] [IsScalarTower R A M']
    [IsLocalization S A] :
    IsBaseChange A f :=
  sorry -- Your proof here!

-- Just for illustration, this wouldn't actually go in the library
example [Module (Localization S) M'] [IsScalarTower R (Localization S) M'] :
    IsBaseChange (Localization S) f :=
  isBaseChange S f
```

File: Mathlib/LinearAlgebra/TensorProduct.lean (hunk 4 above)
[the remark this answers is not in the document]
Comment (4e554c4c) [reply Mathlib/LinearAlgebra/TensorProduct.lean]: Right, so I opened a [thread](https://leanprover.zulipchat.com/#narrow/stream/113489-new-members/topic/What.20to.20do.20with.20small.2C.20self-contained.20lemmas.3F) about this on github a long time ago, and the indication seemed to be that it wouldn't hurt to add lemmas like this to mathlib.

The point is to include a useful criterion of when every element of a tensor product is pure, which is true in the case of $`S^{-1}R\otimes_R M`$ where we are working. This lemma was used in an earlier version of my theorem, but ended up not being useful later (when rephrasing things as `IsBaseChange` instead of `IsTensorProduct`). I decided to keep the theorem in hopes it would be useful to others, but am happy to remove it (since it ended up basically being trivial after a lot of golfing).

File: Mathlib/Algebra/Module/LocalizedModule.lean [hunk 5]
```diff
@@ -1079,6 +1081,76 @@ theorem mkOfAlgebra {R S S' : Type _} [CommRing R] [CommRing S] [CommRing S'] [A
...
+      use (IsLocalization.mk' _ 1 s : A) • q
+      dsimp only
+      constructor
+      on_goal 1 => rw [Module.algebraMap_end_apply]
+      on_goal 2 =>
+        intro q' h
+        rw [Module.algebraMap_end_apply] at h
+        rw [← h, smul_comm]
+      all_goals
+        rw [← smul_assoc, Algebra.smul_def, mul_comm, IsLocalization.mk'_spec, map_one, one_smul]
```
Comment (ocfnash) [inline Mathlib/Algebra/Module/LocalizedModule.lean:1109]: If you add the following lemma:
```lean
@[simp] lemma IsLocalization.smul_mk'_self {s : S} {r : R} :
    (s : R) • IsLocalization.mk' A r s = algebraMap R A r := by
  rw [IsLocalization.smul_mk', IsLocalization.mk'_mul_cancel_left]
```
(e.g., just below the your new lemma `IsLocalization.smul_mk'`) then we can golf this part to:
```suggestion
    intro s
    simp_rw [Module.End_isUnit_iff, Function.bijective_iff_existsUnique,
      Module.algebraMap_end_apply]
    intro q
    refine' ⟨(IsLocalization.mk' _ 1 s : A) • q, _, _⟩
    · simp only [← smul_assoc, IsLocalization.smul_mk'_self, map_one, one_smul]
    · rintro q rfl
      simp only [smul_comm _ (s : R), ← smul_assoc, IsLocalization.smul_mk'_self, map_one, one_smul]
```

**Review by ocfnash — COMMENTED** [review]
Thanks for sticking with this. It's very close now.

I think there are further opportunities to simplify this proof (and extract new lemmas) but I'm out of time for now. I'll try to come back to this within 24 hours if nobody else does.

File: Mathlib/Algebra/Module/LocalizedModule.lean [hunk 6]
```diff
@@ -1079,6 +1081,71 @@ theorem mkOfAlgebra {R S S' : Type _} [CommRing R] [CommRing S] [CommRing S'] [A
...
+    simp [LinearMap.restrictScalars_apply, LinearMap.toFun_eq_coe]
+  constructor
+  · dsimp only
+    rwa [g'_extends_scalars]
+  · rintro g'' h
+    have := h₂ (LinearMap.restrictScalars R g'') h
+    rw [← g'_extends_scalars] at this
+    ext x
+    apply_fun fun f => f x at this
+    simpa [LinearMap.restrictScalars_apply]
```
Comment (ocfnash) [inline Mathlib/Algebra/Module/LocalizedModule.lean:1147]: If we add the following definition somewhere (maybe to `RingTheory/Localization/Module.lean`):
```lean
section move_me

variable (A)
variable {M N : Type _}
  [AddCommMonoid M] [Module R M] [Module A M] [IsScalarTower R A M]
  [AddCommMonoid N] [Module R N] [Module A N] [IsScalarTower R A N]

/-- An `R`-linear map between two `S⁻¹R`-modules is actually `S⁻¹R`-linear. -/
def _root_.LinearMap.extendScalarsOfIsLocalization (f : M →ₗ[R] N) : M →ₗ[A] N where
  toFun := f
  map_add' := f.map_add
  map_smul' := by
    intro r m
    simp only [RingHom.id_apply]
    rcases IsLocalization.mk'_surjective S r with ⟨r, s, rfl⟩
    conv_lhs =>
      rw [← one_smul A (f _), ← IsLocalization.mk'_self' _ (x := s),  ← mul_one r,
        ← mul_one (↑s : R)]
      conv =>
        -- 'repeat' appears to discharge goals
        -- https://github.com/leanprover/lean4/pull/2357
        repeat rw [← IsLocalization.smul_mk' ]
      rw [smul_assoc r, f.map_smul]
      conv in (↑s • _) • _ =>
        rw [smul_comm]
      conv in (↑s • _) • _ =>
        rw [smul_assoc, smul_comm]
      rw [← f.map_smul (↑s : ↑ S)]
      conv in (occs := 1) _ • _ • _ =>
        rw [← smul_assoc]
      arg 2; rw [← smul_assoc]
    iterate 2 rw [IsLocalization.smul_mk', mul_one]
    rw [IsLocalization.mk'_self, one_smul]

@[simp] lemma _root_.LinearMap.restrictScalars_extendScalarsOfIsLocalization (f : M →ₗ[R] N) :
    (f.extendScalarsOfIsLocalization S A).restrictScalars R = f := rfl

end move_me
```
then this proof can become:
```suggestion
  rcases this with ⟨ℓ, rfl, h₂⟩
  refine' ⟨ℓ.extendScalarsOfIsLocalization S A, by simp, fun g'' h ↦ _⟩
  have := h₂ (LinearMap.restrictScalars R g'') h
  rw [← ℓ.restrictScalars_extendScalarsOfIsLocalization S A] at this
  ext x
  apply_fun fun f => f x at this
  simpa [LinearMap.restrictScalars_apply]
```

Comment (4e554c4c) [reply Mathlib/Algebra/Module/LocalizedModule.lean]: thanks! this is the refactor I was vaguely thinking about :laughing:

File: Mathlib/RingTheory/Localization/Basic.lean [hunk 7]
```diff
@@ -424,6 +424,14 @@ theorem mk'_mul_mk'_eq_one' (x : R) (y : M) (h : x ∈ M) : mk' S x y * mk' S (y
   mk'_mul_mk'_eq_one ⟨x, h⟩ _
 #align is_localization.mk'_mul_mk'_eq_one' IsLocalization.mk'_mul_mk'_eq_one'
 
+theorem smul_mk' (x y : R) (m : M) : x • mk' S y m = mk' S (x * y) m  := by
+  nth_rw 2 [← one_mul m]
+  rw [mk'_mul, mk'_one, Algebra.smul_def]
+
```
Comment (ocfnash) [inline Mathlib/RingTheory/Localization/Basic.lean:430]: This will help us golf some downstream proofs:
```suggestion

@[simp] theorem smul_mk'_one (x : R) (m : M) : x • mk' S 1 m = mk' S x m := by
  rw [smul_mk', mul_one]

```

File: Mathlib/RingTheory/Localization/Module.lean [hunk 8]
```diff
@@ -157,3 +157,42 @@ theorem LinearIndependent.iff_fractionRing {ι : Type _} {b : ι → V} :
 #align linear_independent.iff_fraction_ring LinearIndependent.iff_fractionRing
 
 end FractionRing
+
+section
+
+variable {R : Type _} [CommRing R] (S : Submonoid R)
+variable (A : Type _) [CommRing A] [Algebra R A] [h : IsLocalization S A]
```
Comment (ocfnash) [inline Mathlib/RingTheory/Localization/Module.lean:164]:
```suggestion
variable (A : Type _) [CommRing A] [Algebra R A] [IsLocalization S A]
```

File: Mathlib/RingTheory/Localization/Module.lean [hunk 9]
```diff
@@ -157,3 +157,42 @@ theorem LinearIndependent.iff_fractionRing {ι : Type _} {b : ι → V} :
...
+variable {M N : Type _}
+  [AddCommMonoid M] [Module R M] [Module A M] [IsScalarTower R A M]
+  [AddCommMonoid N] [Module R N] [Module A N] [IsScalarTower R A N]
+
```
Comment (ocfnash) [inline Mathlib/RingTheory/Localization/Module.lean:168]:
```suggestion

open IsLocalization

```

File: Mathlib/RingTheory/Localization/Module.lean [hunk 10]
```diff
@@ -157,3 +157,42 @@ theorem LinearIndependent.iff_fractionRing {ι : Type _} {b : ι → V} :
...
+      conv in (↑s • _) • _ =>
+        rw [smul_comm]
+      conv in (↑s • _) • _ =>
+        rw [smul_assoc, smul_comm]
+      rw [← f.map_smul (↑s : ↑ S)]
+      conv in (occs := 1) _ • _ • _ =>
+        rw [← smul_assoc]
+      arg 2; rw [← smul_assoc]
+    iterate 2 rw [IsLocalization.smul_mk', mul_one]
+    rw [IsLocalization.mk'_self, one_smul]
```
Comment (ocfnash) [inline Mathlib/RingTheory/Localization/Module.lean:194]: This is a great opportunity to use `calc`:
```suggestion
    rcases mk'_surjective S r with ⟨r, s, rfl⟩
    calc f (mk' A r s • m)
        = ((s : R) • mk' A 1 s) • f (mk' A r s • m) := by simp
      _ = (mk' A 1 s) • (s : R) • f (mk' A r s • m) := by rw [smul_comm, smul_assoc]
      _ = (mk' A 1 s) • f ((s : R) • mk' A r s • m) := by simp
      _ = (mk' A 1 s) • f (r • m) := by rw [← smul_assoc, smul_mk'_self, algebraMap_smul]
      _ = (mk' A 1 s) • r • f m := by simp
      _ = mk' A r s • f m := by rw [smul_comm, ← smul_assoc, smul_mk'_one]
```

File: Mathlib/RingTheory/Localization/Module.lean [hunk 11]
```diff
@@ -157,3 +157,42 @@ theorem LinearIndependent.iff_fractionRing {ι : Type _} {b : ι → V} :
...
+
+@[simp] lemma LinearMap.restrictScalars_extendScalarsOfIsLocalization (f : M →ₗ[R] N) :
+    (f.extendScalarsOfIsLocalization S A).restrictScalars R = f := rfl
+end
```
Comment (ocfnash) [inline Mathlib/RingTheory/Localization/Module.lean:198]: I forgot to include this in a previous review; it will help us golf a downstream proof:
```suggestion

@[simp] lemma LinearMap.extendScalarsOfIsLocalization_apply (f : M →ₗ[A] N) :
    f.extendScalarsOfIsLocalization S A = f := rfl

end
```

File: Mathlib/Algebra/Module/LocalizedModule.lean [hunk 12]
```diff
@@ -1079,6 +1082,35 @@ theorem mkOfAlgebra {R S S' : Type _} [CommRing R] [CommRing S] [CommRing S'] [A
...
+    · simp only [← smul_assoc, IsLocalization.smul_mk'_self, map_one, one_smul]
+    · rintro q rfl
+      simp only [smul_comm _ (s : R), ← smul_assoc, IsLocalization.smul_mk'_self, map_one, one_smul]
+  rcases this with ⟨ℓ, rfl, h₂⟩
+  refine' ⟨ℓ.extendScalarsOfIsLocalization S A, by simp, fun g'' h ↦ _⟩
+  have := h₂ (LinearMap.restrictScalars R g'') h
+  rw [← ℓ.restrictScalars_extendScalarsOfIsLocalization S A] at this
+  ext x
+  apply_fun fun f => f x at this
+  simpa [LinearMap.restrictScalars_apply]
```
Comment (ocfnash) [inline Mathlib/Algebra/Module/LocalizedModule.lean:1112]: Thanks to our new `simp` lemmas, this can be just:
```suggestion
  ext x
  simp [← h₂ (LinearMap.restrictScalars R g'') h]
```

**Review by ocfnash — APPROVED** [review]
Thank you again for your patience sticking with this, this was a bit trickier than it could have been (partly because of missing API) and of course because of the port. You should expect a better experience from future PR reviews!

Please apply my final suggestions and then feel free to merge.

bors d+
